US08835428B2
Step 3: Methyl 2-(3-(4-aminophenyl)isoxazole-5-carboxamido)-3-methylbutanoate
Methyl 3-methyl-2-(3-(4-nitrophenyl)isoxazole-5-carboxamido)butanoate (2 g) was dissolved in EtOH (20 ml), THF (8 ml), and water (8 ml). Then ammonium chloride (925 mg) and Iron (756 mg) was added and refluxed at 80° C. for 3 h. The reaction mixture was cooled, filtered through celite and solvent removed under reduced pressure to get dark brown residue. Residue was taken in water and extracted with ethyl acetate, organic layer separated, dried over Na2SO4 and concentrated to get dark brown residue which was purified by silica gel column chromatography in 1:1 EtOAc:Pet ether to get yellow solid which was crystallized from methylene chloride/Pet ether to yield 1.2 g (65%) pale yellow solid. MS (ES+): m/z 318 (M+1); 1HNMR (DMSO-d6, 300 MHz): δ 9.1 (d, 1H), 7.55 (d, 2H), 7.51 (s, 1H), 6.63 (d, 2H), 5.63 (bs, 1H), 4.27 (m, 1H), 3.65 (s, 3H), 2.19 (m, 1H), 0.94 (d, 6H).

reactant | Methyl 3-methyl-2-(3-(4-nitrophenyl)isoxazole-5-carboxamido)butanoate | 2 g | CC(C(C(=O)OC)NC(=O)C1=CC(=NO1)C1=CC=C(C=C1)[N+](=O)[O-])C | C16H17N3O6
reactant | THF | 8 ml | C1CCOC1 | C4H8O
reactant | ammonium chloride | 925 mg | [Cl-].[NH4+]
solvent | EtOH | 20 ml | CCO | C2H6O
solvent | water | O | H2O
catalyst | Iron | 756 mg | [Fe] | Fe
solvent | water | 8 ml | O | H2O
product | Methyl 2-(3-(4-aminophenyl)isoxazole-5-carboxamido)-3-methylbutanoate | 1.2 g, 65% | NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)NC(C(=O)OC)C(C)C | C16H19N3O4
